US04192871
20,20-Ethylenedioxy-3α-hydroxy-16α-methyl-5α-pregnan-11-one
A mixture of 3α-hydroxy-16α-methyl-5α-pregnane-11,20-dione (1.00 g), benzene (50 ml), ethylene glycol (5 ml) and toluene-4-sulphonic acid monohydrate (50 mg) was brought to reflux under a Dean and Stark water separator and refluxed for 5 hr, then poured into saturated aqueous sodium hydrogen carbonate (50 ml) and the layers separated. The aqueous portion was extracted with additional benzene (50 ml) and the combined organic portions washed with water (2×50 ml), dried and evaporated to a white foam (1.12 g). A portion of this material (1.00 g) was crystallised from ether-petroleum ether (b.p. 60°-80°) to afford the title compound (581 mg), m.p. 122°-124°, [α]D +37.2°.

reactant | 3α-hydroxy-16α-methyl-5α-pregnane-11,20-dione | 1.00 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@H]([C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C)C | C22H34O3
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
reactant | toluene-4-sulphonic acid monohydrate | 50 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | ethylene glycol | 5 ml | C(CO)O | C2H6O2
product | 20,20-Ethylenedioxy-3α-hydroxy-16α-methyl-5α-pregnan-11-one | 581 mg | C1OC(C)([C@H]2[C@@H](C[C@H]3[C@@H]4CC[C@H]5C[C@@H](CC[C@]5(C)[C@H]4C(C[C@]23C)=O)O)C)OC1 | C24H38O4
